US04111934
Preparation of 7-chloro-3,5-dihydro-2-methoxy-5-phenyl-4H-1,5-benzodiazepin-4-one
A mixture of 3.3g (0.01M) of 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one, 5 ml of triethylamine and 50 ml. of methanol was heated to reflux for 2 hrs. The solvents were evaporated under reduced pressure and the residue was crystallized from ether/hexane to yield the above named product, m.p. 136°-138°.

reactant | 7-chloro-3,5-dihydro-2-(N-nitrosomethylamino)-5-phenyl-4H-1,5-benzodiazepin-4-one | 0.01M, 3.3g | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)NCN=O)C=C1 | C16H13ClN4O2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
product | 7-chloro-3,5-dihydro-2-methoxy-5-phenyl-4H-1,5-benzodiazepin-4-one | ClC1=CC2=C(N=C(CC(N2C2=CC=CC=C2)=O)OC)C=C1 | C16H13ClN2O2
